*SPICE model for iNA10386
* "86" PACKAGE MODEL
.SUBCKT INA10386   OUT   IN   GND
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    11      0       .059PF
LT1     11      12      .493NH
C2T1    12      0       .059PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    14      0       .042PF
LT2     14      15      .076NH
C2T2    15      0       .042PF
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    13      0       .039PF
LT3     13      16     .330NH
C2T3    16      0       .039PF
* Bond wire inductance
LIN         12      DIEIN     .35NH
LOUT     16      DIEOUT  .35NH
LGND     15      DIEGND  .1NH
* Contact inductance
LL1     IN      11      .55NH
LL2     GND     14      .06NH
LL3     OUT     13      .25NH
*Parasitic capacitances
CCEB    12      15      .02PF
CCEC    15      DIEOUT  .03PF
CCBC    12      DIEOUT  .03PF
* INSERT DIE MODEL
XNA10DIE DIEOUT  DIEIN   DIEGND  INA10
.ENDS
*
.SUBCKT INA10   DIEOUT  DIEIN   DIEGND
RE1          Q1E     11        6       
RE2          Q4E     15      40       
RBIAS1   DIEIN  11   1150      
RBIAS2   Q2E     15     600      
RBIAS3   Q3E     15     200      
RF1      DIEIN     Q3E      1200 
RF2      Q1C      DIEOUT  500 
LP1      11          DIEGND   0.15NH
LP2      15          DIEGND   0.15NH
CP1      11          DIEGND   0.35PF
CP2      15          DIEGND   0.35PF
COUT  DIEOUT  DIEGND   0.15PF
CIN      DIEIN      DIEGND    0.15PF
XNA10Q1  Q1C       DIEIN   Q1E     Q405
XNA10Q2  DIEOUT  Q1C    Q2E     Q406
XNA10Q3  DIEOUT  Q2E    Q3E     Q410
XNA10Q4  DIEOUT  Q3E    Q4E     Q420
.ENDS
* transistor models
.MODEL  q405    NPN (BF=100, IS=2.0E-16, VA=20,
+    BR=2.5,     ME=0.6,     NF=1.03,    PTF=25,
+    TF=1.2E-11,    CJE= 2.9E-13,   XTF=4,     IK=1.6E-02,
+    PE=1.01,    ISE=6.0E-13,     NE=2.5,    VTF=6,
+   XTB=1.818,    ITF=3.6E-02,     RB=24.15,     RE=0.83,
+    RC=25.22,    CJC=1.2E-13,    CJS=1.5E-13,   XCJC=0.20,
+    PS=0.80,     MS=0.5,     PC=0.76,     MC=0.53)

.MODEL  q406    NPN (BF=100,    IS=2.4E-16,     VA=20,
+    BR=2.5,     ME=0.6,     NF=1.03,    PTF=25,
+    TF=1.2E-11,    CJE=3.5E-13,    XTF=4,    IK=1.9E-02,
+    PE=1.01,    ISE=7.2E-13,     NE=2.5,    VTF=6,
+   XTB=1.818,   ITF=4.3E-02,     RB=20.15,     RE=0.69,
+    RC=22.80,    CJC=1.5E-13,    CJS=1.6E-13,   XCJC=0.20,
+    PS=0.80,     MS=0.5,     PC=0.76,     MC=0.53)

.MODEL  q410    NPN (BF=100,     IS=4.0E-16,     VA=20,
+    BR=2.5,     ME=0.6,     NF=1.03,    PTF=25,
+    TF=1.2E-11,    CJE=5.8E-13,    XTF=4,     IK=3.2E-02,
+    PE=1.01,    ISE=1.2E-12,     NE=2.5,    VTF=6,
+   XTB=1.818,    ITF=7.2E-02,    RB=12.13,    RE=0.42,
+    RC=10.10,    CJC=2.3E-13,    CJS=2.1E-13,   XCJC=0.21,
+    PS=0.80,     MS=0.5,     PC=0.76,     MC=0.53)

.MODEL  q420    NPN (BF=100,    IS=9.9E-16,     VA=20,
+    BR=2.5,     ME=0.6,     NF=1.03,    PTF=25,
+    TF=1.2E-11,    CJE=1.4E-12,    XTF=4,     IK=8.0E-02,
+    PE=1.01,    ISE=3.0E-12,     NE=2.5,   VTF=6,
+   XTB=1.818,    ITF=1.8E-01,    RB=4.86,     RE=0.17,
+    RC=13.15,    CJC=5.5E-13,    CJS=4.0E-13,   XCJC=0.22,
+    PS=0.80,     MS=0.5,     PC=0.76,     MC=0.53)

